US06974802B2
c) 2-(N-benzyloxycarbonyl-L-valyloxymethyl)-2-ethyl-butyric acid.
To a cooled mixture of chromic anhydride (8.5 g, 85,2 mmole) in 100 ml acetic acid was added dropwise a solution of 2-(N-benzyloxycarbonyl-L-valyloxymethyl)-2-ethyl-butan-1-ol (10.4 g, 28.4 mmole) in 50 ml acetone and the mixture was stirred 24 hours at room temperature. The mixture was added to 1000 ml 10% sodium chloride solution and extracted four times with ethyl acetate. The organic phase was washed twice with brine, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with hexane/ethyl acetate. Yield: 7 g=65%. The product can be activated and esterified directly to a drug or further modified as described below.

reactant | 2-(N-benzyloxycarbonyl-L-valyloxymethyl)-2-ethyl-butan-1-ol | 28.4 mmole, 10.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(CO)(CC)CC | C20H31NO5
reactant | sodium chloride | 1000 ml | [Cl-].[Na+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(N-benzyloxycarbonyl-L-valyloxymethyl)-2-ethyl-butyric acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(C(=O)O)(CC)CC | C20H29NO6
